US04760163
using isopropyl 2-bromo-4-chloro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate with sodium isopropylate in isopropanol there is obtained isopropyl 2-bromo-4-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, m.p. 208°-210° C.,

reactant | isopropyl 2-bromo-4-chloro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate | BrC1=C(C(=O)OC(C)C)C=C(C(=C1)Cl)NC(=O)NC1=C(CCC1)C(=O)OCC | C19H22BrClN2O5
reactant | sodium | [Na] | Na
solvent | isopropanol | C(C)(C)O | C3H8O
product | isopropyl 2-bromo-4-chloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | BrC1=C(C(=O)OC(C)C)C=C(C(=C1)Cl)N1C(NC2=C(C1=O)CCC2)=O | C17H16BrClN2O4
